US04978798
reacting 3,4-dichlorobenzotrifluoride with 1,2-dichlorobenzene and AlCl3 to form bis(3,4-dichlorophenyl) dichloromethane;

reactant | 3,4-dichlorobenzotrifluoride | ClC=1C=C(C=CC1Cl)C(F)(F)F | C7H3Cl2F3
reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | 1,2-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | bis(3,4-dichlorophenyl) dichloromethane | ClC=1C=C(C=CC1Cl)C(Cl)(Cl)C1=CC(=C(C=C1)Cl)Cl | C13H6Cl6
